US07375087B2
4-[(4-{2-[(S)-1-(Carbamoyl)ethylcarbamoyl]-2-methylpropoxy}phenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{2-[(S)-1-(carbamoyl)ethylcarbamoyl]-2-methylpropoxy}phenyl)methyl]-5-isopropyl-1H-pyrazole (0.14 g) in methanol (4 mL) was added sodium methoxide (28% methanol solution, 0.04 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give the title compound (94 mg).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{2-[(S)-1-(carbamoyl)ethylcarbamoyl]-2-methylpropoxy}phenyl)methyl]-5-isopropyl-1H-pyrazole | 0.14 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCC(C)(C)C(N[C@@H](C)C(N)=O)=O)C(C)C | C35H48N4O13
reactant | sodium methoxide | 0.04 mL | C[O-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
product | 4-[(4-{2-[(S)-1-(Carbamoyl)ethylcarbamoyl]-2-methylpropoxy}phenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole | 94 mg | C(N)(=O)[C@H](C)NC(=O)C(COC1=CC=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)(C)C | C27H40N4O9
